US08669234B2
[2-Methyl-1-(3-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester:
Pd(PPh3)4 (73 mg, 0.06 mmol) was added to a sealed tube containing a mixture of (1-{3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (600 mg, 1.27 mmol), bis(pinacolato)diboron (675 mg, 2.66 mmol), potassium acetate (324 mg, 3.3 mmol) and 1,4-dioxane (15 mL). The reaction mixture was flushed with nitrogen, heated at 80° C. for 16 hours, and then the volatile component was removed in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a white solid (440 mg, 66%). m/z 523.2 (M+H)+.

reactant | (1-{3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 1.27 mmol, 600 mg | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2)=O | C22H27BrN4O3
reactant | bis(pinacolato)diboron | 2.66 mmol, 675 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.3 mmol, 324 mg | C(C)(=O)[O-].[K+]
catalyst | Pd(PPh3)4 | 0.06 mmol, 73 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | [2-Methyl-1-(3-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester | 440 mg, 66% | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C2)=O | C28H39BN4O5
